US05026625
159.1 g of 2,4-difluoronitrobenzene and 150 g of 4-methylpentan-2-one are mixed in 1.2 1 of methanol with 3 g of concentrated H2SO4 and 5 g of 5% Pt/C, and the mixture is catalytically hydrogenated for 3 hours at 30°-35° under a constant 5 bar of H2. The progress of the hydrogenation is monitored by thin-layer chromatography on silica gel using the mixture petroleum ether/dioxane 4:1 as the mobile phase. When the reaction is complete, the catalyst is filtered off and the solvent is removed by distillation on a rotary evaporator. A brown oil remains which, after removal of some resinous by-product, is rectified in vacuo. The fraction of boiling point 120°-125° at 14 mbar is collected. 173.4 g of N-(1,3-dimethylbutyl)-2,4-difluoroaniline are obtained as a colourless oil.

reactant | 2,4-difluoronitrobenzene | 159.1 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 4-methylpentan-2-one | 150 g | CC(CC(C)=O)C | C6H12O
catalyst | Pt/C | 5 g | [Pt] | Pt
catalyst | H2SO4 | 3 g | OS(=O)(=O)O | H2O4S
solvent | methanol | CO | CH4O
product | N-(1,3-dimethylbutyl)-2,4-difluoroaniline | 173.4 g | CC(CC(C)C)NC1=C(C=C(C=C1)F)F | C12H17F2N
